US08278297B2
(S)-9-cyclopentyl-5,7,7-trimethyl-2-(1-phenylethylamino)-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one
2-Chloro-9-cyclopentyl-5,7,7-trimethyl-8,9-dihydro-5H-pyrimido[5,4-b][1,4]diazepin-6(7H)-one (100 mg, 0.3238 mmol, prepared as described in WO 2007/095188) was dissolved in n-butyl alcohol (1 mL). To the butyl alcohol solution thus obtained were then added (1S)-1-phenylethanamine (750 μL, 5.830 mmol) and DIPEA (167.4 mg, 225.6 μL, 1.295 mmol). The resulting solution was heated at 140° C. in microwave for 90 minutes. Additional (1S)-1-phenylethanamine (500 μL, 3.887 mmol) was added and the reaction mixture heated for 90 minutes in microwave at 140° C. The solvent was removed in vacuo and the residue dissolved in dichloromethane and washed sequentially with 0.5M HCl (three times, 5 mL each), saturated aqueous sodium hydrogen carbonate solution (three times, 5 mL each), and brine (once, 5 mL). The washed solution was dried over MgSO4, filtered, and concentrated in vacuo to give yellow oil. The oil was purified by mass directed HPLC and the product fractions passed through a bicarbonate cartridge and lypholized to afford the title compound as a white solid (33.5 mg, 26% yield).

reactant | 2-Chloro-9-cyclopentyl-5,7,7-trimethyl-8,9-dihydro-5H-pyrimido[5,4-b][1,4]diazepin-6(7H)-one | 0.3238 mmol, 100 mg | ClC=1N=CC=2N(C(C(CN(C2N1)C1CCCC1)(C)C)=O)C | C15H21ClN4O
reactant | (1S)-1-phenylethanamine | 5.830 mmol, 750 μL | C1(=CC=CC=C1)[C@H](C)N | C8H11N
reactant | DIPEA | 1.295 mmol, 225.6 μL, 167.4 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | (1S)-1-phenylethanamine | 3.887 mmol, 500 μL | C1(=CC=CC=C1)[C@H](C)N | C8H11N
solvent | n-butyl alcohol | 1 mL | C(CCC)O | C4H10O
product | (S)-9-cyclopentyl-5,7,7-trimethyl-2-(1-phenylethylamino)-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | 33.5 mg, 26% yield | C1(CCCC1)N1C2=C(N(C(C(C1)(C)C)=O)C)C=NC(=N2)N[C@@H](C)C2=CC=CC=C2 | C23H31N5O
